US06528504B2
5-[2-[N-(4-chlorophenethyl)-N-methylamino]ethyl]-5,11-dihydrodibenzo [b,e][1,4]oxazepine Hydrochloride
5 ml of 2 M hydrochloric acid/ethyl ether was added to 5-[2-[N-(4-chlorophenethyl)-N-methylamino]ethyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine (282 mg, 0.70 mmol), and they were stirred for 1 hour. The solvent was evaporated under reduced pressure. The obtained residue was recrystallized from a solvent mixture of dichloromethane and ethyl ether to obtain the title compound in the form of light green crystals (163 mg, 87%).

reactant | hydrochloric acid ethyl ether | 2 M, 5 ml | Cl.C(C)OCC
reactant | 5-[2-[N-(4-chlorophenethyl)-N-methylamino]ethyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine | 0.70 mmol, 282 mg | ClC1=CC=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C24H25ClN2O
product | 5-[2-[N-(4-chlorophenethyl)-N-methylamino]ethyl]-5,11-dihydrodibenzo [b,e][1,4]oxazepine Hydrochloride | Cl.ClC1=CC=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C24H25ClN2O.ClH/c1-26(15-14-19-10-12-21(25)13-11-19)16-17-27-22-7-3-2-6-20(22)18-28-24-9-5-4-8-23(24)27;/h2-13H,14-18H2,1H3;1H
